US05451700
A solution of 2,4-dihydroxy-N,N-bis(1-methylethyl)benzamide (3 g, 12.7 mmol) in 30 mL of N,N-dimethylformamide is treated with cesium carbonate (4.97 g, 15.2 mmol), and 5-(4-cyanophenoxy)pentyl bromide (3.4 g, 12.7 mmol) and stirred at 40° C. for 24 hours. The reaction is partitioned between ethyl acetate and water, dried over sodium sulfate and concentrated in vacuo to afford a yellow foam. This material is purified by chromatography on silica gel (30 g) with 30-70% ethyl acetate/hexane as the eluent to afford 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide as colorless foam.

reactant | 2,4-dihydroxy-N,N-bis(1-methylethyl)benzamide | 12.7 mmol, 3 g | OC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)O | C13H19NO3
reactant | cesium carbonate | 15.2 mmol, 4.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(4-cyanophenoxy)pentyl bromide | 12.7 mmol, 3.4 g | C(#N)C1=CC=C(OCCCCCBr)C=C1 | C12H14BrNO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)O)C=C1 | C25H32N2O4
